US05280043
To a solution of 4-(4-aminophenyl)butyric acid (1 g, 5.6 mmol) in dry acetone (30 ml) was added dropwise a solution of benzenesulphonyl chloride (0.99 g) and pyridine (1.1 g) in dry acetone (10 ml). The mixture was heated at reflux for 3 hours, then concentrated in vacuo. The resulting oil was dissolved in dichloromethane (100 ml) and the solution was washed with 2N aqueous HCl (2×100 ml), followed by water (2×100 ml). The dichloromethane solution was extracted with 10% aqueous NaOH (2×50 ml), followed by water (2×50 ml), and these extracts were combined and stirred with dichloromethane (100 ml) while conc. HCl was added to adjust the pH of the mixture to 5. The layers were separated and the organic solution was dried (MgSO04) and concentrated in vacuo. The resulting solid was recrystallised from isopropanol to give 4-[4-(phenyl-sulphonamido)phenyl]butyric acid. (1.03 g, 58%) mp. 128°-130 ° C.

reactant | 4-(4-aminophenyl)butyric acid | 5.6 mmol, 1 g | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | benzenesulphonyl chloride | 0.99 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 1.1 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-[4-(phenyl-sulphonamido)phenyl]butyric acid | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CCCC(=O)O | C16H17NO4S
